US07396844B1
Synthesis of 4-(2-1H-imidazolyl)benzoic acid hydrochloride
160 mg (0.74 mmol) of ethyl 4-(2-1H-imidazolyl)benzoate was heated under reflux in 4 ml of hydrochloric acid and 8 ml of acetic acid Three hours after, the solvent was evaporated to obtain the title compound.

reactant | ethyl 4-(2-1H-imidazolyl)benzoate | 0.74 mmol, 160 mg | N1C(=NC=C1)C1=CC=C(C(=O)OCC)C=C1 | C12H12N2O2
reactant | hydrochloric acid | 4 ml | Cl | ClH
product | 4-(2-1H-imidazolyl)benzoic acid hydrochloride | Cl.N1C(=NC=C1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C10H8N2O2.ClH/c13-10(14)8-3-1-7(2-4-8)9-11-5-6-12-9;/h1-6H,(H,11,12)(H,13,14);1H
